US09238656B2
Synthesis of (1S,2S,3R,4R)-3-[2-(4-Morpholin-4-ylmethyl-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound XC)
In a similar fashion to Compound LXXXVII, (1S,2S,3R,4R)-3-(2,3-Diamino-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (50.0 mg, 0.193 mmol) and 4-morpholin-4-ylmethyl-benzaldehyde (43.5 mg, 0.212 mmol) were reacted to produce 27 mg (32%) of the title compound. mp: 240-244° C., 1H NMR (300 MHz, DMSO-d6): 13.06 (s, 1H), 8.09 (d, J=8 Hz, 2H), 7.91 (d, 1H), 7.67 (s, 1H), 7.45 (d, J=8 Hz, 1H), 7.16 (s, 1H), 6.88 (m, 1H), 6.41 (d, J=8 Hz, 1H), 6.33 (s, 1H), 3.88 (br s, 1H), 3.59 (br s, 4H), 3.52 (s, 2H), 2.88 (s, 1H), 2.76 (s, 1H), 2.60 (d, J=8 Hz, 1H), 2.38 (s, 4H), 2.23 (d, J=8 Hz, 1H), 1.43 (d, J=8 Hz, 1H). MS: 445 (M+H), HPLC: 1.51 min (G method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.193 mmol, 50.0 mg | NC1=NC=CC(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N | C13H17N5O
reactant | 4-morpholin-4-ylmethyl-benzaldehyde | 0.212 mmol, 43.5 mg | N1(CCOCC1)CC1=CC=C(C=O)C=C1 | C12H15NO2
product | (1S,2S,3R,4R)-3-[2-(4-Morpholin-4-ylmethyl-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 27 mg, 32% | N1(CCOCC1)CC1=CC=C(C=C1)C1=NC=2C(=NC=CC2N[C@H]2[C@H]([C@@H]3C=C[C@H]2C3)C(=O)N)N1 | C25H28N6O2
